US07572819B2
N-[(2S)-5-(5-chloro-2-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide
To a solution of N-[(2S)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide (1 g, 2.74 mmol) in dry 1,4 dioxane (15 ml), polymer supported Pd(PPh3)4 (54 mg, 0.5 mmol/g, 0.027 mmol) was added along with 2-bromo-5-chloropyridine (1.05 g, 5.48 mmol) and 3.5 ml of a 2M Na2CO3 solution in water and the resulting mixture was heated at 90° degrees for 3 hours. Then after cooling the resin was removed by filtration and then the solvent was removed under reduced pressure. The residue was taken up with AcOEt and water. The aqueous phase was separated and acidified with 3N HCl and extracted with AcOEt. Then pH was reverted to basic by addition of NaHCO3 and another extraction with AcOEt was performed. All the organic extracts were collected, dried on Na2SO4, filtered and evaporated. The crude was finally purified on a 40M+ silica cartridge eluting with a cyclohexane/AcOEt 80/20 mixture. 682 mg of title compound were recovered as whitish solid (71%). Due to the use of chiral Intermediate 7, the final compound is believed to be N-[(2S)-5-(5-chloro-2-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide.

reactant | N-[(2S)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 2.74 mmol, 1 g | CC1(OB(OC1(C)C)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
reactant | 2-bromo-5-chloropyridine | 5.48 mmol, 1.05 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4 dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.027 mmol, 54 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(2S)-5-(5-chloro-2-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | ClC=1C=CC(=NC1)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C17H19ClN2O2S
